US05994374
f) 4-(1-Phenylethyl)-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)-1,2,5,6-tetrahydropyridine Hydrogen Oxalate
A suspension of 3-(5-[1,2,4-triazol-4-yl]-1H-indol-3-yl)propan-1-ol (220 mg, 0.91 mmol) in anhydrous tetrahydrofuran (30 ml), under an atmosphere of nitrogen, was treated with triethylamine (0.25 ml, 1.82 mmol) and methanesulphonyl chloride (0.14 ml, 1.82 mmol). The reaction mixture was stirred for 1.5 hours, filtered, evaporated then re-dissolved in dichloromethane (50 ml) and washed with water (2×30 ml). The combined organics were dried (sodium sulphate), evaporated and the crude mesylate was suspended in propan-2-ol (50 ml) then treated with potassium carbonate (500 mg, 3.6 mmol) and 4-(1-phenylethyl-1,2,5,6-tetrahydropyridine (482 mg, 2.5 mmol). The reaction mixture was stirred whilst heating at reflux for 66 hours, then cooled and evaporated. The residue was partitioned between water (50 ml) and dichloromethane (50 ml). The aqueous was separated then re-extracted with dichloromethane (3×50 ml). The combined organics were dried (sodium sulphate), evaporated and the residue purified by chromatography on silica using dichloromethane/methanol/ammonia (95:4:1) to give the title compound free base (115 mg, 31%). The hydrogen oxalate salt had mp >120° C. (dec.). MS, ES+, m/z=412 for (M+H)+, δ(360 MHz, DMSO-d6) 1.31 (3H, d, J=7 Hz), 2.02-2.20 (4H, m), 2.78 (2H, t, J=7 Hz), 3.05-3.30 (4H, m), 3.45 (1H, q, J=7 Hz), 3.60-3.80 (2H, m), 5.56 (1H, s), 7.17-7.25 (3H, m), 7.27-7.35 (4H, m), 7.51 (1H, d, J=9 Hz), 7.80 (1H, d, J=2 Hz), 9.01 (2H, s), 11.20 (1H, s). (Found: C, 63,89; H, 6.23; N, 12.24. C26H29N5. 1.45C2H2O4. 0.33CH3CH2OH requires C, 63.71; H, 6.13; N, 12.57%).

reactant | 3-(5-[1,2,4-triazol-4-yl]-1H-indol-3-yl)propan-1-ol | 0.91 mmol, 220 mg | N=1N=CN(C1)C=1C=C2C(=CNC2=CC1)CCCO | C13H14N4O
reactant | triethylamine | 1.82 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.82 mmol, 0.14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | 3.6 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-phenylethyl-1,2,5,6-tetrahydropyridine | 2.5 mmol, 482 mg | C1(=CC=CC=C1)C(C)N1CC=CCC1 | C13H17N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(1-Phenylethyl)-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)-1,2,5,6-tetrahydropyridine Hydrogen Oxalate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)C(C)C1=CCN(CC1)CCCC1=CNC2=CC=C(C=C12)N1C=NN=C1 | InChI=1S/C26H29N5.C2H2O4/c1-20(21-6-3-2-4-7-21)22-11-14-30(15-12-22)13-5-8-23-17-27-26-10-9-24(16-25(23)26)31-18-28-29-19-31;3-1(4)2(5)6/h2-4,6-7,9-11,16-20,27H,5,8,12-15H2,1H3;(H,3,4)(H,5,6)
